US07893267B2
0.20 g (0.56 mmol) of 6-cyano-2-[(isoquinoline-3-carbonyl)-amino]-1H-benzoimidazole-4-carboxylic acid and 0.21 g (0.56 mmol) of HBTU were combined in a flask charged with 3 mL of DMF and 1 mL of DIEA. This reaction mixture was then treated with 0.07 g (0.56 mmol) of 2-amino-imidazole sulfate and stirred at 80° C. for 1 h. The reaction mixture was diluted with water, and the resultant solid precipitate was filtered and washed with saturated NaHCO3. The solid was dissolved with MeOH, evaporated onto silica gel and isolated by flash column chromatography (500 mL DCM/20 mL NH3/MeOH) to yield 10 mg of isoquinoline-3-carboxylic acid [6-cyano-4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide. LCMS: 424.0 (M+1)+.

reactant | 6-cyano-2-[(isoquinoline-3-carbonyl)-amino]-1H-benzoimidazole-4-carboxylic acid | 0.56 mmol, 0.20 g | C(#N)C=1C=C(C2=C(NC(=N2)NC(=O)C=2N=CC3=CC=CC=C3C2)C1)C(=O)O | C19H11N5O3
reactant | HBTU | 0.56 mmol, 0.21 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIEA | 1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-imidazole sulfate | 0.56 mmol, 0.07 g | S(=O)(=O)(O)O.NC=1NC=CN1
solvent | water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | isoquinoline-3-carboxylic acid [6-cyano-4-(1H-imidazol-2-ylcarbamoyl)-1H-benzoimidazol-2-yl]-amide | 10 mg | C(#N)C=1C=C(C2=C(NC(=N2)NC(=O)C=2N=CC3=CC=CC=C3C2)C1)C(NC=1NC=CN1)=O | C22H14N8O2
